US04898455
A solution of 2.24 g of propyl p-(5-pentyl-2-pyridyl)phenylcarbamate in 186 ml of diethylene glycol was treated with 26 ml of potassium hydroxide and 47 ml of water and heated at 170° C. under nitrogen. After 1.75 hours the reaction mixture was cooled, poured into 250 ml of water and extracted with methylene chloride. The organic phase was dried over sodium sulphate, filtered and freed from solvent on a rotary evaporator under a vacuum. Purification of the residue (1.39 g) by chromatography on 60 g of silica gel with 1.5 l of methylene chloride and 0.5 l of methylene chloride/ethyl acetate (vol. 4:1) and subsequent recrystallization from methylene chloride/hexane gave 0.731 g of p-(5-pentyl-2-pyridyl)aniline as yellowish crystals; m.p. 60.3°-61.3° C.

reactant | propyl p-(5-pentyl-2-pyridyl)phenylcarbamate | 2.24 g | C(CCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)NC(OCCC)=O | C20H26N2O2
reactant | potassium hydroxide | 26 ml | [OH-].[K+]
reactant | water | 47 ml | O | H2O
reactant | water | 250 ml | O | H2O
solvent | diethylene glycol | 186 ml | C(COCCO)O | C4H10O3
product | p-(5-pentyl-2-pyridyl)aniline | 0.731 g | C(CCCC)C=1C=CC(=NC1)C1=CC=C(N)C=C1 | C16H20N2
